US04797417
A solution of 5-(3-hydroxypropyl)-4-phenyl2(5H)-furanone (90 mg) in acetone (1 ml) was added to a solution of 2N Jones reagent (0.62 ml) in acetone (1 ml) at 0° C. over 10 minutes, and the resulting mixture was stirred at 0° C. for 20 minutes. After addition of isopropyl alcohol (1 ml), the mixture was poured into a mixture of ethyl acetate (20 ml) and water (20 ml). The aqueous layer was separated and extracted with ethyl acetate (10 ml). The organic layers were combined, washed with water and brine succssively, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (3 g) eluting with a mixture of chloroform and methanol (50:1 to 20:1) to give an oily product of 3-(2,5-dihydro5-oxo-3-phenyl-2-furyl)propionic acid, which was crystallized from diethyl ether (60 mg).

reactant | 5-(3-hydroxypropyl)-4-phenyl2(5H)-furanone | 90 mg | OCCCC1C(=CC(O1)=O)C1=CC=CC=C1 | C13H14O3
reactant | Jones reagent | 2N, 0.62 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | isopropyl alcohol | 1 ml | C(C)(C)O | C3H8O
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | 1 ml | CC(=O)C | C3H6O
solvent | acetone | 1 ml | CC(=O)C | C3H6O
solvent | water | 20 ml | O | H2O
product | 3-(2,5-dihydro5-oxo-3-phenyl-2-furyl)propionic acid | O=C1C=C(C(O1)CCC(=O)O)C1=CC=CC=C1 | C13H12O4
